US06696437B1
a) tert-Butyl 6-(2-(N,N-diethylamino)eth-1-yloxy)picolinate
1.03 g of diethylaminoethanol were introduced into 25 ml of dimethylformamide. At room temp., 0.22 g (9.26 mmol) of sodium hydride (60% suspension in white oil) was added. After stirring at room temp. for 30 minutes, a solution of 2.03 g (8.882 mmol) of tert-butyl 6-bromopicolinate in 20 ml of dimethylformamide was added dropwise. The reaction mixture was stirred at room temp. for 16 hours. After decomposition of excess sodium hydride with water, the reaction mixture was concentrated in vacuo. The residue was purified by flash chromatography (toluene/tetrahydrofuran/methanol, 4/1/1+2.5% triethylamine). 0.67 g of a pale brown oil was obtained.

reactant | diethylaminoethanol | 1.03 g | CCN(CC)CCO | C6H15NO
reactant | sodium hydride | 9.26 mmol, 0.22 g | [H-].[Na+]
reactant | tert-butyl 6-bromopicolinate | 8.882 mmol, 2.03 g | BrC1=CC=CC(=N1)C(=O)OC(C)(C)C | C10H12BrNO2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 6-(2-(N,N-diethylamino)eth-1-yloxy)picolinate | 0.67 g | C(C)N(CC)CCOC1=CC=CC(=N1)C(=O)OC(C)(C)C | C16H26N2O3
